US09402832B2
To a solution of 3,4-methylenedioxybenzylamine (10 g, 66.2 mmol) in acetic acid (50 mL) was added acetic anhydride (15.27 g, 150 mmol). The mixture was stirred at 20° C. for 30 minutes. Then it was adjusted to PH7 with 10% NaOH. The mixture was filtered to obtain a solid which was washed water and dried in vacuum to give N-(benzo[d][1,3]dioxol-5-ylmethyl)acetamide as a white solid (9.24 g, 77%). LC-MS: 194 [M+1]+; 1H-NMR (DMSO-d6): δ 1.84 (s, 3H), 4.12 (d, 2H, J=6.4 Hz), 5.98 (s, 2H), 6.71 (m, 2H), 6.83 (m, 2H), 8.28 (s, 1H).

reactant | 3,4-methylenedioxybenzylamine | 66.2 mmol, 10 g | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
reactant | acetic anhydride | 150 mmol, 15.27 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | N-(benzo[d][1,3]dioxol-5-ylmethyl)acetamide | 9.24 g, 77% | O1COC2=C1C=CC(=C2)CNC(C)=O | C10H11NO3
